US05300479
Preparation of Dimethyl 1,2-dimethyl-5,6-benzimidazoledicarboxylate
Sodium methoxide (1.96 g, 36.3 mmol) is added to a solution of dimethyl 2-methyl-5,6-benzimidazoledicarboxylate (8.50 g, 34.2 mmol) in methanol. The reaction mixture is stirred 0.5 hour at room temperature, treated with iodomethane (2.15 mL, 34.5 mmol) stirred overnight, acidified to pH 6 with acetic acid, treated with sodium bicarbonate to pH 8 and extracted with chloroform. The extracts are combined, dried (MgSO4) and concentrated in vacuo to yield the title product as a pink solid (6.25 g, 69.7%). A small portion is recrystallized from ethyl acetate to afford the title product as pink crystals, mp 147°-148° C.

reactant | Sodium methoxide | 36.3 mmol, 1.96 g | C[O-].[Na+]
reactant | dimethyl 2-methyl-5,6-benzimidazoledicarboxylate | 34.2 mmol, 8.50 g | CC=1NC2=C(N1)C=C(C(=C2)C(=O)OC)C(=O)OC | C12H12N2O4
reactant | iodomethane | 34.5 mmol, 2.15 mL | IC | CH3I
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Dimethyl 1,2-dimethyl-5,6-benzimidazoledicarboxylate | 6.25 g, 69.7% | CN1C(=NC2=C1C=C(C(=C2)C(=O)OC)C(=O)OC)C | C13H14N2O4
